US07531553B2
Preparation XVI: 1-nitro-3-(2-Dimethylamino-ethoxy)-4-trifluoromethylbenzene.
5-Nitro-2-trifluoromethylphenol (3.48 g, 16.8 mmol) was heated in a sealed tube at 105° C. along with 2-(dimethylamino)ethylchloride hydrochloride (5.32 g, 37.0 mmol), K2CO3 (9.76 g, 70.7 mmol), 114 mL acetone, 33 mL H2O, and Bu4N+I− (0.5 g, 1.34 mmol) for 24 h, then at 120° C. for 24 h. The reaction was cooled to RT and concentrated to aqueous layer, which was diluted with brine and 6 N NaOH and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. Purification by silica gel column chromatography yielded the title compound as a light brown oil.

reactant | 5-Nitro-2-trifluoromethylphenol | 16.8 mmol, 3.48 g | [N+](=O)([O-])C=1C=CC(=C(C1)O)C(F)(F)F | C7H4F3NO3
reactant | 2-(dimethylamino)ethylchloride hydrochloride | 37.0 mmol, 5.32 g | Cl.CN(CCCl)C
reactant | K2CO3 | 70.7 mmol, 9.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 114 mL | CC(=O)C | C3H6O
solvent | H2O | 33 mL | O | H2O
product | 1-nitro-3-(2-Dimethylamino-ethoxy)-4-trifluoromethylbenzene | [N+](=O)([O-])C1=CC(=C(C=C1)C(F)(F)F)OCCN(C)C | C11H13F3N2O3
